US03969418
4-(4'-biphenylyl)-3-buten-1-ol by method A
A solution of 6.0 gm (0.025 mol) of 4-(4'-biphenylyl- 3-butenoic acid (m.p. 188°C) in 100 ml of absolute tetrahydrofuran was dropwise stirred, at room temperature, into a suspension of 1.0 gm (0.026 mol) of lithium aluminum hydride in 100 ml of absolute ether. The mixture was stirred for a further 2 hours, then were successively added 1 ml of water, 2 ml of 2N sodium hydroxide solution and again 5 ml of water and the obtained precipitate was suction filtered. The solvent was distilled off from the filtrate, and the obtained firm residue was recrystallized from cyclohexane/ethyl acetate. The compound was obtained therefrom in a yield of 3.8 gm (68% of theory), m.p. 142°C, of the formula ##SPC9##

reactant | 4'-biphenylyl- 3-butenoic acid | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)O)C=C | C16H14O2
reactant | lithium aluminum hydride | 0.026 mol, 1.0 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-(4'-biphenylyl)-3-buten-1-ol | C1(=CC=CC=C1)C1=CC=C(C=C1)C=CCCO | C16H16O
